US07897601B2
A mixture of 3-(4-chloro-phenyl)-1-methyl-prop-2-ynylamine (1.5 g, 8.4 mmol), triethylamine (0.12 mL, 0.86 mmol, 0.1 eq.) and Lindlar catalyst (150 mg) in 40 mL of 1:1 methanol-dichloromethane was stirred for 1 hr, filtered through a CELITE pad and concentrated to provide 1.5 g of 3-(4-chloro-phenyl)-1-methyl-allylamine.

reactant | 3-(4-chloro-phenyl)-1-methyl-prop-2-ynylamine | 8.4 mmol, 1.5 g | ClC1=CC=C(C=C1)C#CC(C)N | C10H10ClN
reactant | triethylamine | 0.86 mmol, 0.12 mL, 0.1 eq. | C(C)N(CC)CC | C6H15N
catalyst | Lindlar catalyst | 150 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | methanol dichloromethane | 40 mL | CO.ClCCl
product | 3-(4-chloro-phenyl)-1-methyl-allylamine | 1.5 g | ClC1=CC=C(C=C1)C=CC(C)N | C10H12ClN
